* d:\soc\cinv\cinv.cir

.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
xsc2 vout vin gnd gnd sky130_fd_pr__nfet_01v8  l=1 w=1
xsc1 vout vin net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8  l=1 w=1
v2 net-_sc1-pad3_ gnd  dc 1.8
v1  vin gnd pulse(0 1.8 0.1n 0.1n 0.1n 1m 2m)
* u1  vin plot_v1
* u2  vout plot_v1
* s c m o d e
.tran 0.1e-03 10e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
 
plot v(vout)  v(vin)+2
.endc
.end
