* D:\soc\CP\CP.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 10/02/22 21:47:36

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
SC2  Net-_SC1-Pad1_ UP GND GND sky130_fd_pr__nfet_01v8		
SC1  Net-_SC1-Pad1_ UP VDD VDD sky130_fd_pr__pfet_01v8		
SC4  Net-_SC3-Pad1_ DOWN GND GND sky130_fd_pr__nfet_01v8		
SC3  Net-_SC3-Pad1_ DOWN VDD VDD sky130_fd_pr__pfet_01v8		
SC7  Net-_SC1-Pad1_ VDD Net-_SC13-Pad2_ Net-_SC13-Pad2_ sky130_fd_pr__pfet_01v8		
SC8  Net-_SC1-Pad1_ GND Net-_SC13-Pad2_ Net-_SC13-Pad2_ sky130_fd_pr__nfet_01v8		
SC5  Net-_SC3-Pad1_ VDD Net-_SC10-Pad2_ Net-_SC10-Pad2_ sky130_fd_pr__pfet_01v8		
SC6  Net-_SC3-Pad1_ GND Net-_SC10-Pad2_ Net-_SC10-Pad2_ sky130_fd_pr__nfet_01v8		
SC9  Net-_SC13-Pad1_ UP Net-_SC13-Pad1_ Net-_SC13-Pad1_ sky130_fd_pr__pfet_01v8		
SC11  GND GND VDD VDD sky130_fd_pr__pfet_01v8		
SC13  Net-_SC13-Pad1_ Net-_SC13-Pad2_ VDD VDD sky130_fd_pr__pfet_01v8		
SC14  CP GND Net-_SC13-Pad1_ Net-_SC13-Pad1_ sky130_fd_pr__pfet_01v8		
SC10  Net-_SC10-Pad1_ Net-_SC10-Pad2_ Net-_SC10-Pad1_ Net-_SC10-Pad1_ sky130_fd_pr__nfet_01v8		
SC12  VDD VDD GND GND sky130_fd_pr__nfet_01v8		
SC16  Net-_SC10-Pad1_ DOWN GND GND sky130_fd_pr__nfet_01v8		
SC15  CP VDD Net-_SC10-Pad1_ Net-_SC10-Pad1_ sky130_fd_pr__nfet_01v8		
v1  VDD GND DC		
v2  UP GND pulse		
v3  DOWN GND pulse		
U1  UP plot_v1		
U2  DOWN plot_v1		
U3  CP plot_v1		
scmode1  SKY130mode		

.end
