* d:\soc\cp\cp.cir

.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
xsc2 net-_sc1-pad1_ up gnd gnd sky130_fd_pr__nfet_01v8 l=1 w=1
xsc1 net-_sc1-pad1_ up vdd vdd sky130_fd_pr__pfet_01v8  l=1 w=3
xsc4 net-_sc3-pad1_ down gnd gnd sky130_fd_pr__nfet_01v8  l=1 w=1
xsc3 net-_sc3-pad1_ down vdd vdd sky130_fd_pr__pfet_01v8  l=1 w=3
xsc7 net-_sc1-pad1_ vdd net-_sc13-pad2_ net-_sc13-pad2_ sky130_fd_pr__pfet_01v8  l=1 w=3
xsc8 net-_sc1-pad1_ gnd net-_sc13-pad2_ net-_sc13-pad2_ sky130_fd_pr__nfet_01v8  l=1 w=1
xsc5 net-_sc3-pad1_ vdd net-_sc10-pad2_ net-_sc10-pad2_ sky130_fd_pr__pfet_01v8  l=1 w=3
xsc6 net-_sc3-pad1_ gnd net-_sc10-pad2_ net-_sc10-pad2_ sky130_fd_pr__nfet_01v8  l=1 w=1
xsc9 net-_sc13-pad1_ up net-_sc13-pad1_ net-_sc13-pad1_ sky130_fd_pr__pfet_01v8  l=1 w=3
xsc11 gnd gnd vdd vdd sky130_fd_pr__pfet_01v8  l=1 w=3
xsc13 net-_sc13-pad1_ net-_sc13-pad2_ vdd vdd sky130_fd_pr__pfet_01v8  l=0.25 w=65
xsc14 cp gnd net-_sc13-pad1_ net-_sc13-pad1_ sky130_fd_pr__pfet_01v8  l=1 w=3
xsc10 net-_sc10-pad1_ net-_sc10-pad2_ net-_sc10-pad1_ net-_sc10-pad1_ sky130_fd_pr__nfet_01v8  l=1 w=1
xsc12 vdd vdd gnd gnd sky130_fd_pr__nfet_01v8  l=1 w=1
xsc16 net-_sc10-pad1_ down gnd gnd sky130_fd_pr__nfet_01v8  l=0.25 w=21
xsc15 cp vdd net-_sc10-pad1_ net-_sc10-pad1_ sky130_fd_pr__nfet_01v8  l=1 w=1
v1 vdd gnd  dc 1.8
v2  up gnd pulse(0 0 0 0 0 0 0)
v3  down gnd pulse(0 1.8 0 0 0 0.01u 0.2u)
* u1  up plot_v1
* u2  down plot_v1
* u3  cp plot_v1
* s c m o d e
.tran 0.01e-06 4e-06 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(up)
plot v(down)
plot v(cp)
.endc
.end
