* d:\soc\cp_test\cp_test.cir

.include Charge_Pump.sub
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
x1 vdd up down cp Charge_Pump
v3 vdd gnd  dc 1.8
v1  up gnd pulse(0 0 0 0 0 0 0)
v2  down gnd pulse(0 1.8 0 0 0 0.01u 0.2u)
* u1  up plot_v1
* u2  down plot_v1
* u3  cp plot_v1
* s c m o d e
.tran 0.01e-06 4e-06 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(up)
plot v(down)
plot v(cp)
.endc
.end
