* d:\soc\dff\dff.cir

.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
* u5  vdd b a net-_u1-pad1_ net-_u5-pad5_ net-_u1-pad3_ adc_bridge_3
* u6  net-_u1-pad4_ qa dac_bridge_1
v1 vdd gnd  dc 1.8
v3  a gnd pulse(0 1.8 0.1p 1.48p 1.48p 2n 4.44n)
* u7  qa plot_v1
* u2  vdd plot_v1
* u3  a plot_v1
* u9  net-_u10-pad1_ net-_u1-pad4_ net-_u1-pad2_ d_and
* u10  net-_u10-pad1_ qb dac_bridge_1
* u11  qb plot_v1
* u13  net-_u1-pad2_ rstn dac_bridge_1
* u12  rstn plot_v1
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ dff
* u8  net-_u1-pad1_ net-_u1-pad2_ net-_u5-pad5_ net-_u10-pad1_ dff
* s c m o d e
v2  b gnd pulse(0 1.8 0.88n 1.48p 1.48p 2n 4.44n)
* u4  b plot_v1
a1 [vdd b a ] [net-_u1-pad1_ net-_u5-pad5_ net-_u1-pad3_ ] u5
a2 [net-_u1-pad4_ ] [qa ] u6
a3 [net-_u10-pad1_ net-_u1-pad4_ ] net-_u1-pad2_ u9
a4 [net-_u10-pad1_ ] [qb ] u10
a5 [net-_u1-pad2_ ] [rstn ] u13
a6 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ ] [net-_u1-pad4_ ] u1
a7 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u5-pad5_ ] [net-_u10-pad1_ ] u8
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u5 adc_bridge(in_low=0 in_high=1.8 rise_delay=10p fall_delay=10p ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u6 dac_bridge(out_low=0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=10p t_fall=10p ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u9 d_and(rise_delay=10p fall_delay=10p input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u10 dac_bridge(out_low=0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=10p t_fall=10p ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u13 dac_bridge(out_low=0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=10p t_fall=10p ) 
* Schematic Name:                             dff, NgSpice Name: dff
.model u1 dff(rise_delay=10p fall_delay=10p input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dff, NgSpice Name: dff
.model u8 dff(rise_delay=10p fall_delay=10p input_load=1.0e-12 instance_id=1 ) 
.tran 1e-09 50e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(qb)  v(qa)+2  v(b)+4  v(a)+6   v(rstn)+8
.endc
.end
