* d:\soc\dividebyn\dividebyn.cir

v1  clk gnd pulse(0 1.8 0 1.48p 1.48p 2n 4n)
* u1  clk plot_v1
* u5  out3 plot_v1
* u6  clk rstn net-_u3-pad1_ net-_u3-pad2_ adc_bridge_2
v2  rstn gnd pulse(0 1.8 0 1.48p 1.48p 0.1n 60n)
* u2  rstn plot_v1
* u4  net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ out3 out2 out1 out0 dac_bridge_4
* u3  net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ freq_divideby_8nw
* u7  out2 plot_v1
* u8  out1 plot_v1
* u9  out0 plot_v1
a1 [clk rstn ] [net-_u3-pad1_ net-_u3-pad2_ ] u6
a2 [net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ ] [out3 out2 out1 out0 ] u4
a3 [net-_u3-pad1_ ] [net-_u3-pad2_ ] [net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ ] u3
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u6 adc_bridge(in_low=0 in_high=1.8 rise_delay=10p fall_delay=10p ) 
* Schematic Name:                             dac_bridge_4, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=10p t_fall=10p ) 
* Schematic Name:                             freq_divideby_8nw, NgSpice Name: freq_divideby_8nw
.model u3 freq_divideby_8nw(rise_delay=10p fall_delay=10p input_load=1.0e-12 instance_id=1 ) 
.tran 0.1e-09 60e-09 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out0)  v(out1)+2  v(out2)+4  v(out3)+6  v(clk)+8  v(rstn)+10
.endc
.end
