* c:\fossee\esim\library\subcircuitlibrary\charge_pump\charge_pump.cir

.include ""
.lib "" 
xsc2 net-_sc1-pad1_ /up gnd gnd sky130_fd_pr__nfet_01v8 
xsc1 net-_sc1-pad1_ /up /vdd /vdd sky130_fd_pr__pfet_01v8 
xsc4 net-_sc3-pad1_ /down gnd gnd sky130_fd_pr__nfet_01v8 
xsc3 net-_sc3-pad1_ /down /vdd /vdd sky130_fd_pr__pfet_01v8 
xsc7 net-_sc1-pad1_ /vdd net-_sc13-pad2_ net-_sc13-pad2_ sky130_fd_pr__pfet_01v8 
xsc8 net-_sc1-pad1_ gnd net-_sc13-pad2_ net-_sc13-pad2_ sky130_fd_pr__nfet_01v8 
xsc5 net-_sc3-pad1_ /vdd net-_sc10-pad2_ net-_sc10-pad2_ sky130_fd_pr__pfet_01v8 
xsc6 net-_sc3-pad1_ gnd net-_sc10-pad2_ net-_sc10-pad2_ sky130_fd_pr__nfet_01v8 
xsc9 net-_sc13-pad1_ /up net-_sc13-pad1_ net-_sc13-pad1_ sky130_fd_pr__pfet_01v8 
xsc11 gnd gnd /vdd /vdd sky130_fd_pr__pfet_01v8 
xsc13 net-_sc13-pad1_ net-_sc13-pad2_ /vdd /vdd sky130_fd_pr__pfet_01v8 
xsc14 /cp gnd net-_sc13-pad1_ net-_sc13-pad1_ sky130_fd_pr__pfet_01v8 
xsc10 net-_sc10-pad1_ net-_sc10-pad2_ net-_sc10-pad1_ net-_sc10-pad1_ sky130_fd_pr__nfet_01v8 
xsc12 /vdd /vdd gnd gnd sky130_fd_pr__nfet_01v8 
xsc16 net-_sc10-pad1_ /down gnd gnd sky130_fd_pr__nfet_01v8 
xsc15 /cp /vdd net-_sc10-pad1_ net-_sc10-pad1_ sky130_fd_pr__nfet_01v8 
* s c m o d e
* u1  /vdd /up /down /cp port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
