* Subcircuit Charge_Pump
.subckt Charge_Pump /vdd /up /down /cp 
* c:\fossee\esim\library\subcircuitlibrary\charge_pump\charge_pump.cir

xsc2 net-_sc1-pad1_ /up gnd gnd sky130_fd_pr__nfet_01v8
xsc1 net-_sc1-pad1_ /up /vdd /vdd sky130_fd_pr__pfet_01v8
xsc4 net-_sc3-pad1_ /down gnd gnd sky130_fd_pr__nfet_01v8
xsc3 net-_sc3-pad1_ /down /vdd /vdd sky130_fd_pr__pfet_01v8
xsc7 net-_sc1-pad1_ /vdd net-_sc13-pad2_ net-_sc13-pad2_ sky130_fd_pr__pfet_01v8
xsc8 net-_sc1-pad1_ gnd net-_sc13-pad2_ net-_sc13-pad2_ sky130_fd_pr__nfet_01v8
xsc5 net-_sc3-pad1_ /vdd net-_sc10-pad2_ net-_sc10-pad2_ sky130_fd_pr__pfet_01v8
xsc6 net-_sc3-pad1_ gnd net-_sc10-pad2_ net-_sc10-pad2_ sky130_fd_pr__nfet_01v8
xsc9 net-_sc13-pad1_ /up net-_sc13-pad1_ net-_sc13-pad1_ sky130_fd_pr__pfet_01v8
xsc11 gnd gnd /vdd /vdd sky130_fd_pr__pfet_01v8
xsc13 net-_sc13-pad1_ net-_sc13-pad2_ /vdd /vdd sky130_fd_pr__pfet_01v8
xsc14 /cp gnd net-_sc13-pad1_ net-_sc13-pad1_ sky130_fd_pr__pfet_01v8
xsc10 net-_sc10-pad1_ net-_sc10-pad2_ net-_sc10-pad1_ net-_sc10-pad1_ sky130_fd_pr__nfet_01v8
xsc12 /vdd /vdd gnd gnd sky130_fd_pr__nfet_01v8
xsc16 net-_sc10-pad1_ /down gnd gnd sky130_fd_pr__nfet_01v8
xsc15 /cp /vdd net-_sc10-pad1_ net-_sc10-pad1_ sky130_fd_pr__nfet_01v8
* s c m o d e
* Control Statements

.ends Charge_Pump